US09085606B2
Step-1: Preparation of 3-Bromo-5-tert-butyl-benzaldehyde
1,3-Dibromo-5-tert-butylbenzene (50 g, 0.17 mol) was dissolved in anhydrous ether (200 mL) in a dried flask under nitrogen. The reaction mixture was cooled to −78° C. and stirred under nitrogen atmosphere. A 2.46 M solution of n-BuLi in hexanes (171.2 mL, 0.171 mol) was added dropwise to the above solution and the reaction mixture was stirred at −78° C. for 30 minute after complete addition of n-BuLi. After 30 minute of stirring at −78° C., the reaction mixture was warmed to −30° C. DMF (16 mL, 0.2 mol) was added to the above reaction mixture dropwise, keeping the reaction mixture below −20° C. After addition of DMF, the reaction mixture was warmed slowly to 0° C. (30 minute) and then stirring was continued overnight to obtain a yellow-orange solution. The reaction mixture was poured into 400 mL of chilled 10% aqueous HCl and the mixture was stirred for 15 minutes. The ether layer was separated, washed with water (2×250 mL), dried over anhydrous Na2SO4, filtered and evaporated in vacuo to give the product as a pale yellow viscous liquid. The crude product was dissolved in dichloromethane (250 mL) and passed through a small pad of silica gel (250 g). Evaporation of the solvent in vacuo gave the product as a pale yellow viscous liquid (41.2 g).

reactant | 1,3-Dibromo-5-tert-butylbenzene | 0.17 mol, 50 g | BrC1=CC(=CC(=C1)C(C)(C)C)Br | C10H12Br2
reactant | n-BuLi | [Li]CCCC
reactant | DMF | 0.2 mol, 16 mL | CN(C)C=O | C3H7NO
reactant | HCl | Cl | ClH
solvent | ether | 200 mL | CCOCC | C4H10O
product | 3-Bromo-5-tert-butyl-benzaldehyde | BrC=1C=C(C=O)C=C(C1)C(C)(C)C | C11H13BrO
